US06344476B1
To a solution of 2-(N-methylcarbamoyl)-3-amino-5-tert-butylpyrrole (0.14 g, 0.70 mmol) in CH2Cl2 (5 mL) at room temp. was annd p-tolyl isocyanate (0.088 mL, 0.70 mmol, 1.0 equiv) and the resulting mixture was allowed to stir at room temp. overnight. The resulting precipitate was separated and washed with CH2Cl2 to give N-(2-methylcarbamoyl-5-tert-butyl-3-pyrrolyl)-N′-(4-methylphenyl)urea (0.17 g, 74%): mp 164-166° C.; 1H-NMR (DMSO-d6) δ1.23 (s, 9H), 2.19 (s, 3H), 2.75 (d, J=4.41 Hz, 3H), 6.49 (d, J=2.57 Hz, 1H), 7.01 (d, J=8.46 Hz, 2H), 7.33 (d, J=8.46 Hz, 2H), 7.60-7.63 (m, 1H), 9.45 (s, 1H), 9.50 (s, 1H), 10.17 (br s, 1H); FAB-LRMS m/z 329 (M+H).

reactant | 2-(N-methylcarbamoyl)-3-amino-5-tert-butylpyrrole | 0.70 mmol, 0.14 g | CNC(=O)C=1NC(=CC1N)C(C)(C)C | C10H17N3O
reactant | p-tolyl isocyanate | 0.70 mmol, 0.088 mL, 1.0 equiv | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-methylcarbamoyl-5-tert-butyl-3-pyrrolyl)-N′-(4-methylphenyl)urea | 0.17 g, 74% | CNC(=O)C=1NC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C18H24N4O2
